US06870049B1
To a suspension of geldanamycin (1 equiv.) in dichloromethane (20 mL per mmol of geldanamycin) is added trimethyloxonium tetrafluoroborate (3 equiv.) and N, N, N′, N′-tetra-methylnaphthalene-1,8-diamine (3.5 equiv). After stirring at 40° C. for 2 h, the suspension was diluted with ethyl acetate and washed sequentially with 0.1 M aqueous hydrochloric acid, saturated aqueous sodium bicarbonate solution, and saturated aqueous sodium chloride. The organic solution was dried over anhydrous sodium sulfate, filtered, and evaporated to dryness, giving a brown solid. Purification by flash chromatography on silica gel (eluted using mixed dichloromethane/ethyl acetate/methanol solvents) gave 11-O-methyl-geldanamycin (compound I-e) as a yellow solid. Electrospray ionization time-of-flight mass spectrometry (“ESI TOF MS”) m/z 597.2770, calc'd for C30H42N2O9Na [M+Na]+, 597.2783. 13C NMR (CDCl3, 100 MHz) δ (relative to CDCl3 at 77.0 ppm) 12.2, 13.9, 16.0, 21.5, 29.5, 32.5, 33.7, 36.5, 56.2, 57.4, 59.4, 61.5, 78.9, 79.4, 81.7, 83.3, 111.0, 125.7, 128.1, 130.5, 131.9, 134.5, 136.6, 137.8, 155.9, 156.9, 168.6, 183.9, 184.1.

reactant | geldanamycin | 1 equiv. | C[C@H]1C[C@@H]([C@@H]([C@H](/C=C(/[C@@H]([C@H](/C=C\C=C(\C(=O)NC2=CC(=O)C(=C(C1)C2=O)OC)/C)OC)OC(=O)N)\C)C)O)OC | C29H40N2O9
reactant | trimethyloxonium tetrafluoroborate | 3 equiv. | F[B-](F)(F)F.C[O+](C)C
reactant | N, N, N′, N′-tetra-methylnaphthalene-1,8-diamine | 3.5 equiv | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11-O-methyl-geldanamycin | C[C@H]1C[C@@H]([C@@H]([C@H](/C=C(/[C@@H]([C@H](/C=C\C=C(\C(=O)NC2=CC(=O)C(=C(C1)C2=O)OC)/C)OC)OC(=O)N)\C)C)OC)OC | C30H42N2O9
